Name:  ___.              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / azithromycin / Ceclor / Ceclor / Betadine / 
clindamycin / bactrim / amoxicillin
 
Attending: ___.
 
Chief Complaint:
back pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ year old woman with history of L5-S1 disc
herniation (diagnosed several months ago), who presents with
acute worsening of her lower back pain.

Has been seen for her lower back pain as an outpatient. Was
prescribed muscle relaxers and ___ was recommended. Her baseline
pain is a sharp shooting pain which extends down the back of 
both
legs and around to the knees on both sides (R>L), associated 
with
pain in the R>L lower back. Did traction with ___ a couple days
before presentation.

On the morning of presentation, she woke up with significant
worsening of her lower back pain. She noticed a similar
distribution of the pain, but more intense, and now extending
down to the feet as well and associated with numbness of both
feet. She also felt that she could not urinate that morning.
Based on this sudden worsening of symptoms, she presented to
Sturdy ED. MRI there showed her known small disc herniation at
L5-S1 without canal stenosis or foraminal stenosis. She was
transferred to ___ for further evaluation.

In the ED,  
- Initial Vitals:  T 98, HR 104, BP 140/88, spO2 96% RA

- Exam:  
Back- TTP L4-S1, Pain with straight leg to 20 degrees ___,
decreases sensation to light touch on ___ LEs, Decreased perianal
sensation, decreased rectal tone (later reported to be intact
when evaluated by neurosurgery)
Neuro-A&O x3, CN ___ intact, normal strength and sensation in
all extremities, normal speech

- Labs:  WBC 12.7 (58% PMN), Na 134, labs otherwise unremarkable

- Consults:  Neurosurgery, who found her neurologic exam to be
reassuring (with full strength, intact reflexes, rectal tone, 
and
minimally diminished sensation over the right dorsal/lateral
foot, right anteiror thigh, and left perianal area), and after
personally reviewing her imaging from ___, determined that no
neurosurgical intervention was necessary at that time.

- Interventions: She received IV dilaudid (x2), PO 
acetaminophen,
IV zofran, IV morphine (x3), 1L IV NS, lidocaine patch, and her
home fluoxetine. A foley was placed after arrival to the ___
for new urinary retention, but was removed before time of
admission, and she subsequently voided successfully.

Based on persistent pain requiring IV pain meds, and new
worsening numbness of the bilateral feet, she was admitted to
medicine for further management.

Upon arrival to the floor, the patient endorsed having urinated
after removal of the foley. She confirms the above story, and
endorses significant pain.
 
Past Medical History:
Lumbar herniated disc
Anxiety
Intermittent asthma
Prior ectopic pregnancy
S/P appendectomy
S/P C-section
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
VS: ___ 1248 Temp: 98.1 PO BP: 109/63 HR: 90 RR: 18 O2 sat:
99% O2 delivery: Ra 
GENERAL: Alert and interactive. In no acute distress.  
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
MMM.  
NECK: No cervical lymphadenopathy. No JVD.  
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.  
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.  
BACK: No spinous process tenderness. Significant right 
paraspinal
tenderness around the level of the SI joint.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.  
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.  
SKIN: Warm. Cap refill <2s. No rash.  
NEUROLOGIC: CN2-12 intact. Subtle RLE weakness (4+ at hip 
flexor,
5- at knee flexion and extension), strength otherwise intact.
Decreased sensation on the plantar aspect of both feet. 
Sensation
otherwise intact. No saddle anesthesia.

DISCHARGE PHYSICAL EXAM
=======================
Vitals:  24 HR Data (last updated ___ @ 552)
    Temp: 98.4 (Tm 98.6), BP: 102/66 (100-109/63-66), HR: 80
(80-90), RR: 18, O2 sat: 94% (94-99), O2 delivery: Ra  
GENERAL: Alert and interactive. In no acute distress.  
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
MMM.   
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.  
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.  
BACK: No spinous process tenderness. 
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.  
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.  
SKIN: Warm. Cap refill <2s. No rash.  
NEUROLOGIC: CN2-12 intact. ___ ___ strength intact. No changes in
sensation. No saddle anesthesia.
 
Pertinent Results:
ADMISSION LABS
==============
___ 08:20PM BLOOD WBC-12.7* RBC-4.02 Hgb-13.1 Hct-38.9 
MCV-97 MCH-32.6* MCHC-33.7 RDW-12.0 RDWSD-43.1 Plt ___
___ 08:20PM BLOOD Neuts-58.2 ___ Monos-8.6 Eos-3.5 
Baso-0.6 Im ___ AbsNeut-7.40* AbsLymp-3.67 AbsMono-1.09* 
AbsEos-0.44 AbsBaso-0.07
___ 08:20PM BLOOD ___ PTT-26.2 ___
___ 08:20PM BLOOD Glucose-84 UreaN-9 Creat-0.8 Na-134* 
K-4.2 Cl-98 HCO3-25 AnGap-11
___ 08:20PM BLOOD Calcium-9.7 Phos-3.9 Mg-2.0

MICRO
=====
Urine culture
___ 10:50 am URINE
URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

IMAGING
=======
none done at ___

MR ___ was done at ___.

DISCHARGE LABS
==============
___ 06:40AM BLOOD WBC-9.1 RBC-3.82* Hgb-12.5 Hct-37.9 
MCV-99* MCH-32.7* MCHC-33.0 RDW-12.2 RDWSD-44.1 Plt ___
___ 06:40AM BLOOD Neuts-60.5 ___ Monos-9.2 Eos-4.6 
Baso-0.6 Im ___ AbsNeut-5.48 AbsLymp-2.24 AbsMono-0.83* 
AbsEos-0.42 AbsBaso-0.05
___ 06:40AM BLOOD Glucose-90 UreaN-12 Creat-0.7 Na-142 
K-4.5 Cl-105 HCO3-22 AnGap-15
___ 06:40AM BLOOD Calcium-9.3 Phos-3.3 Mg-1.___ F with L5-S1 radiculopathy, who presented with acute 
worsening
of back pain and new foot numbness after doing traction with ___
the day before admission. MRI reassuringly without cord 
compression or
significant foraminal narrowing, and patient was admitted for 
pain control and
serial monitoring of neurologic exam. Her neurologic exam noted 
mild weakness early on but improved and back pain improved by 
the time of discharge. 

TRANSITIONAL ISSUES:
=====================
[] Urinalysis prior to discharge notable for trace leukocytes, 
protein 20, urobili 2. Patient asymptomatic. Would plan for 
repeat UA ___ weeks following discharge 
[] Continue to treat back pain with: Tylenol, gabapentin, 
lidocaine patches
[] Hold off on further physical therapy until follow up 
appointment with PCP

ACUTE ISSUES  
=======================  
# Acute on chronic lower back pain
# L5-S1 disc herniation
Patient with known herniated disc at L5-S1, who presented with
acute worsening of her symptoms after traction with ___, also
associated with new R>L foot numbness. Initially, there was 
concern for
urinary retention as well, but since arrival to the floor, she
was able to void without difficulty. MRI at Sturdy showed no
evidence of significant central canal narrowing or foraminal 
stenosis. Neurosurgery was consulted and they recommended 
against intervention. Neuro exams were monitored. She was 
started on gabapentin 300mg TID, Tylenol and lidocaine patches 
for pain control.

# Urinary retention
Patient initially reported difficulty urinating, requiring
temporary foley placement in the ED. Since removal of the foley 
catheter, she voided without issues. She denies dysuria, 
frequency, urgency.

CHRONIC ISSUES  
======================= 
# Anxiety
Continues home fluoxetine. Held home clonazepam to be restarted 
on discharge.

# Insomnia
Held home zolpidem to be restarted on discharge.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lidocaine 5% Patch 1 PTCH TD QAM 
2. Zolpidem Tartrate 10 mg PO QHS:PRN insomnia 
3. Ibuprofen 800 mg PO Q8H:PRN Pain - Mild 
4. Albuterol Inhaler 1 PUFF IH Q6H:PRN SOB 
5. FLUoxetine 20 mg PO DAILY 
6. ClonazePAM 1 mg PO BID:PRN anxiety 
7. Sprintec (28) (norgestimate-ethinyl estradioL) 0.25-35 mg-mcg 
oral DAILY 

 
Discharge Medications:
1.  Gabapentin 300 mg PO TID 
RX *gabapentin 300 mg 1 capsule(s) by mouth three times a day 
Disp #*90 Capsule Refills:*0 
2.  Albuterol Inhaler 1 PUFF IH Q6H:PRN SOB  
3.  ClonazePAM 1 mg PO BID:PRN anxiety  
4.  FLUoxetine 20 mg PO DAILY  
5.  Ibuprofen 800 mg PO Q8H:PRN Pain - Mild  
6.  Lidocaine 5% Patch 1 PTCH TD QAM  
7.  Sprintec (28) (norgestimate-ethinyl estradioL) 0.25-35 
mg-mcg oral DAILY  
8.  Zolpidem Tartrate 10 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
Herniated Disc

SECONDARY DIAGNOSIS
===================
Anxiety
Insomnia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,  

___ was a pleasure caring for you at ___ 
___.  

WHY WAS I IN THE HOSPITAL?  
- You came to the hospital because you had severe back pain.

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- We took images of your back
- You were found to have a herniated disc
- We had the neurosurgeons see you but they did not feel that 
you needed surgery
- Your pain got better

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Continue to take all your medicines and keep your 
appointments.  
- Please come back to the hospital if you experience and new or 
worsening symptoms

We wish you the best!  

Sincerely,  
Your ___ Team  
 
Followup Instructions:
___